US09062078B2
Step A: methyl 3-methyl-2-(pyrimidin-2-yl)benzoate.
In a microwave vial was dissolved methyl 3-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (619 mg, 2.24 mmol) and 2-chloropyrimidine (314 mg, 2.69 mmol) in 2-MeTHF (10 mL). Na2CO3 (713 mg, 6.73 mmol) was then added followed by water (3.4 mL) and the reaction mixture was degassed with N2 for 45 minutes. Pd(dppf)Cl2 (66 mg, 0.09 mmol) and the reaction mixture was heated at 75° C. for 28 h. More Pd(dppf)Cl2 (33 mg, 0.045 mmol) was added and the reaction mixture was heated at 150° C. for 3.5 h. The mixture was filtered through a pad of celite and rinsed with EtOAc and water. The layers were separated and the aqueous was extracted once with EtOAc. The combined organic layers were dried over MgSO4, filtered and evaporated. The crude was purified via silica gel chromatography (0-50% EtOAc in hexanes) to afford the title compound (116 mg, 23%). MS (ESI) mass calcd. for C13H12N2O2, 228.1; m/z found 229.1 [M+H]+. 1H NMR (500 MHz, CDCl3) 8.95-8.76 (m, 2H), 7.99-7.75 (m, 1H), 7.50-7.44 (m, 1H), 7.43-7.37 (m, 1H), 7.32-7.24 (m, 1H), 3.64 (s, 3H), 2.15 (s, 3H).

reactant | methyl 3-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.24 mmol, 619 mg | CC=1C(=C(C(=O)OC)C=CC1)B1OC(C(O1)(C)C)(C)C | C15H21BO4
reactant | 2-chloropyrimidine | 2.69 mmol, 314 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | Na2CO3 | 6.73 mmol, 713 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 3.4 mL | O | H2O
solvent | 2-MeTHF | 10 mL | CC1CCCO1 | C5H10O
catalyst | Pd(dppf)Cl2 | 0.09 mmol, 66 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(dppf)Cl2 | 0.045 mmol, 33 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 3-methyl-2-(pyrimidin-2-yl)benzoate | 116 mg, 23% | CC=1C(=C(C(=O)OC)C=CC1)C1=NC=CC=N1 | C13H12N2O2
